US06369075B1
7-[(4′-Trifluoromethyl-biphenyl-2-carbonyl)-amino]-quinoline-3-carboxylic acid 2-methyl-benzylamide
7-[(4′-Trifluoromethyl-biphenyl-2-carbonyl)-amino]-quinoline-3-carboxylic acid (50 mg, 0.11 mmol) was combined with 2-methylbenzylamine (14 mg, 0.11 mmol), 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride (26 mg, 0.14 mmol), 1-hydroxybenzotriazole (17 mg, 0.13 mmol), and triethylamine (0.064 ml, 0.46 mmol) in 1 ml of dichloromethane. After stirring overnight at ambient temperature, the reaction mixture was concentrated, the residue was suspended in water, and the solid was collected by vacuum filtration to afford 50 mg of the title compound as a colorless solid.

reactant | 7-[(4′-Trifluoromethyl-biphenyl-2-carbonyl)-amino]-quinoline-3-carboxylic acid | 0.11 mmol, 50 mg | FC(C1=CC=C(C=C1)C=1C(=CC=CC1)C(=O)NC1=CC=C2C=C(C=NC2=C1)C(=O)O)(F)F | C24H15F3N2O3
reactant | 2-methylbenzylamine | 0.11 mmol, 14 mg | CC1=C(CN)C=CC=C1 | C8H11N
reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride | 0.14 mmol, 26 mg | Cl.CN(CCCN=C=NCC)C
reactant | 1-hydroxybenzotriazole | 0.13 mmol, 17 mg | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | triethylamine | 0.46 mmol, 0.064 ml | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 1 ml | ClCCl | CH2Cl2
product | 7-[(4′-Trifluoromethyl-biphenyl-2-carbonyl)-amino]-quinoline-3-carboxylic acid 2-methyl-benzylamide | 50 mg | CC1=C(CNC(=O)C=2C=NC3=CC(=CC=C3C2)NC(=O)C=2C(=CC=CC2)C2=CC=C(C=C2)C(F)(F)F)C=CC=C1 | C32H24F3N3O2
